US06710069B2
Preparation of 4-(2-Chloroethoxy)-1-(phenylsulfonyl)-1H-Indole
A stirred solution of 4-(2-chloroethoxy)-1H-indole (3.4 g, 17.4 mmol) in tetrahydrofuran is treated with sodium hydride (60% in mineral oil, 1.04 g, 26.1 mmol) under nitrogen at room temperature, stirred for 30 minutes, treated with benzenesulfonyl chloride (3.4 mL, 26.1 mmol) stirred at room temperature overnight and treated with saturated NaHCO3 and EtOAc. The resultant phases are separated. The aqueous phase is extracted with EtOAc and the combined organic phase is washed sequentially with H2O and saturated NaCl, dried over MgSO4 and concentrated in vacuo to give a residue. The residue is purified by flash chromatography (silica gel, EtOAc/hexane: 2/8) to give the title compound as an off-white solid, 4.94 g (86%), mp 85-87° C., identified by NMR and mass spectral analyses.

reactant | 4-(2-chloroethoxy)-1H-indole | 17.4 mmol, 3.4 g | ClCCOC1=C2C=CNC2=CC=C1 | C10H10ClNO
reactant | sodium hydride | 26.1 mmol, 1.04 g | [H-].[Na+]
reactant | benzenesulfonyl chloride | 26.1 mmol, 3.4 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-(2-Chloroethoxy)-1-(phenylsulfonyl)-1H-Indole | ClCCOC1=C2C=CN(C2=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C16H14ClNO3S
